US08039490B2
(1-Benzyl-piperidin-4-yl)-(4-fluoro-phenyl)-methanone
(3 g, 12.3 mmol) of 4-(4-fluorobenzoyl)piperidine hydrochloride was suspended in acetonitrile (60 mL) and triethylamine (4.29 mL, 3-1 mmol), benzylbromide (1.61 mL, 14 mmol) and sodium iodide (2.8 g, 18 mol) were added. The mixture was stirred at 80° C. overnight and after cooling the mixture was filtrated, water was added and the aqueous phase was extracted with 100 mL of dichloromethane. The combined organic phases were dried with magnesium sulfate, filtrated concentrated and purified with column chromatography on silica using dichloromethane/Methanol (95/0.5) to yield 3.6 g, (12 mmol, 99% yield) of the title compound as a brown solid. MS (m/e): 298.4 (M+H+).

reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 12.3 mmol, 3 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | triethylamine | 3-1 mmol, 4.29 mL | C(C)N(CC)CC | C6H15N
reactant | benzylbromide | 14 mmol, 1.61 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium iodide | 18 mol, 2.8 g | [I-].[Na+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (1-Benzyl-piperidin-4-yl)-(4-fluoro-phenyl)-methanone | 12 mmol, 99% yield | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)C1=CC=C(C=C1)F | C19H20FNO
